US04305872
II. Synthesis of cyclopentoylhistidine proline free acid
To the free base of Histidine methyl ester dihydrochloride, (m.p. 206°-207° C.), 2 mmoles of cyclopentane carboxylic acid and 2.2 mmoles of DCCI were added. The resulting dipeptide was purified by preparatory TLC with CHCl3 /MeOH (7/1) as the stationary phase. An oily residue was obtained, which was then dissolved in dioxane and hydrolyzed by NaOH. After acidification to neutralize and lyophilization, the residue was treated with dry purified methanol and filtered to remove insoluble sodium chloride. The product was coupled in dimethylformamide with proline using DCCI and 1-hydroxy-benzotriazole. The reaction mixture after 48 hours in an ice-salt bath (-10° C.) was immediately applied to a Sephadex G-≅column, and purified by gel filtration column chromatography. Fractions eluted from the column that showed a positive Pauley reaction (diazo sulfanillic acid reaction) were pooled together and lyophilized. A white fluffy product results. Yield-(30-40%).

reactant | Histidine methyl ester dihydrochloride | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | cyclopentane carboxylic acid | 2 mmoles | C1(CCCC1)C(=O)O | C6H10O2
reactant | DCCI | 2.2 mmoles | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | NaOH | [OH-].[Na+]
product | cyclopentoylhistidine proline | N1[C@H](C(=O)O)CCC1.C1(CCCC1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O | InChI=1S/C12H17N3O3.C5H9NO2/c16-11(8-3-1-2-4-8)15-10(12(17)18)5-9-6-13-7-14-9;7-5(8)4-2-1-3-6-4/h6-8,10H,1-5H2,(H,13,14)(H,15,16)(H,17,18);4,6H,1-3H2,(H,7,8)/t10-;4-/m00/s1
